US08470894B2
1-(3-(Di(tert-butyldimethylsiloxy)-methyl-silanyl)-propoxy)-3-(4-(2-hydroxy-ethyl)-piperidin-1-yl)-propan-2-ol (FIG. 4).
2-piperazin-1-yl-ethanol (0.61 g) and ethanol (20 mL) were charged to a 100 mL RB flask equipped with a magnetic stirrer. The mixture was stirred and heated to 70° C. 1,5-Di(tert-butyl)-3-(oxiranylmethylpropyl)-1,1,3,5,5-Pentamethyltrisiloxane (2.0 g) was placed in an addition funnel and added dropwise to the flask. The mixture was stirred and maintained at 70° C. for an additional 4 hours. The reaction progress was monitored by NMR spectroscopy. Upon reaction completion, the ethanol was removed by rotovap, and the mixture was distilled under reduced pressure to remove impurities.

reactant | 2-piperazin-1-yl-ethanol | 0.61 g | N1(CCNCC1)CCO | C6H14N2O
reactant | 1,5-Di(tert-butyl)-3-(oxiranylmethylpropyl)-1,1,3,5,5-Pentamethyltrisiloxane | 2.0 g | C(C)(C)(C)[Si](O[Si](O[Si](C)(C)C(C)(C)C)(C)C(CC)CC1OC1)(C)C | C19H44O3Si3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(3-(Di(tert-butyldimethylsiloxy)-methyl-silanyl)-propoxy)-3-(4-(2-hydroxy-ethyl)-piperidin-1-yl)-propan-2-ol | O([Si](C)(C)C(C)(C)C)[Si](CCCOCC(CN1CCC(CC1)CCO)O)(C)O[Si](C)(C)C(C)(C)C | C26H59NO5Si3
